US08404859B2
A mixture of the (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid (75.3 mg, 0.147 mmole), 3,3-dimethyl-1-butanol (1 mL, 8.054 mmol) and p-toluenesulfonic acid monohydrate (14.1 mg, 0.0741 mmol) was heated at 100° C. for 2½ hours. The reaction is cooled, neutralized and extracted with ethyl acetate (3×15 mL). The organic layers were combined, washed with brine (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (80% EtOAc in hexanes) to give (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]propionic acid 3,3-dimethyl-butyl ester (31.5 mg, 35.9%) as a white solid. MS m/e 597.7 (M+H+).

reactant | (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid | 0.147 mmole, 75.3 mg | N1N=CC2=C(C=CC=C12)CC(=O)NC=1SC(=C(N1)C)C(=O)N[C@H](C(=O)O)CNC(=O)C=1SC=CC1 | C22H20N6O5S2
reactant | 3,3-dimethyl-1-butanol | 8.054 mmol, 1 mL | CC(CCO)(C)C | C6H14O
reactant | p-toluenesulfonic acid monohydrate | 0.0741 mmol, 14.1 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (S)-2-{[2-(2-1H-Indazol-4-yl-acetylamino)-4-methyl-thiazole-5-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]propionic acid 3,3-dimethyl-butyl ester | 31.5 mg, 35.9% | CC(CCOC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C1=C(N=C(S1)NC(CC1=C2C=NNC2=CC=C1)=O)C)=O)(C)C | C28H32N6O5S2
